US08049015B2
To a solution of (5-{2-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-methoxy-pyridin-3-yl)-acetic acid (0.099 g, 0.22 mmol) in EtOH (1 mL) was added thionyl chloride (0.16 mL, 2.19 mmol), and the reaction was stirred at 80° C. overnight. The mixture was diluted with CH2Cl2 and H2O, and the aqueous layer was extracted with CH2Cl2. The combined organic layers were dried over MgSO4, filtered, and concentrated to give (5-{2-[(N-cyclopropanecarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-hydroxy-pyridin-3-yl)-acetic acid ethyl ester. The ester was hydrolyzed to the acid as described in Example 3, Step 7.

reactant | (5-{2-[(cyclopropanecarbonyl-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-methoxy-pyridin-3-yl)-acetic acid | 0.22 mmol, 0.099 g | C1(CC1)C(=O)N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C=1C=C(C=NC1OC)CC(=O)O | C22H23F3N2O4
reactant | thionyl chloride | 2.19 mmol, 0.16 mL | S(=O)(Cl)Cl | Cl2OS
reactant | EtOH | 1 mL | CCO | C2H6O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | H2O | O | H2O
product | (5-{2-[(N-cyclopropanecarbonyl-N-ethyl-amino)-methyl]-4-trifluoromethyl-phenyl}-6-hydroxy-pyridin-3-yl)-acetic acid ethyl ester | C(C)OC(CC=1C=NC(=C(C1)C1=C(C=C(C=C1)C(F)(F)F)CN(CC)C(=O)C1CC1)O)=O | C23H25F3N2O4
